US07432260B2
6-[5-(2-Oxo-hexahydro-thieno[3,4-d]imidazol-4-yl)-pentanoylamino]-hexanoic acid (2-{4-methyl-5-[2-(4-morpholin-4-yl-phenylamino)-pyrimidin-4-yl]-thiazol-2-ylcarbamoyl}-ethyl)-amide [30].
A solution of 3-amino-N-{4-methyl-5-[2-(4-morpholin-4-yl-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-propionamide (75 mg, 0.17 mmol) in DMF (1 mL) was treated with succinimidyl-6-(biotinamido)hexanoate (32 mg, 0.085 mmol). After stirring at room temperature for 3 h, the reaction mixture was purified by preparative RP-HPLC (0-60% MeCN in 0.1% aq CF3COOH over 40 min, 9 mL/min) to afford the title compound as an orange solid. Anal. RP-HPLC: tR=13.2 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>97%). MS (ESI+) m/z 776 (C37H50N10O5S2 requires 778.9).

reactant | 3-amino-N-{4-methyl-5-[2-(4-morpholin-4-yl-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-propionamide | 0.17 mmol, 75 mg | NCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCOCC1 | C21H25N7O2S
reactant | succinimidyl-6-(biotinamido)hexanoate | 0.085 mmol, 32 mg | C1(CCC(N1C(C(=O)[O-])CCCCNC(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)=O)=O)=O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 6-[5-(2-Oxo-hexahydro-thieno[3,4-d]imidazol-4-yl)-pentanoylamino]-hexanoic acid (2-{4-methyl-5-[2-(4-morpholin-4-yl-phenylamino)-pyrimidin-4-yl]-thiazol-2-ylcarbamoyl}-ethyl)-amide | CC=1N=C(SC1C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCOCC1)NC(=O)CCNC(CCCCCNC(CCCCC1SCC2NC(NC21)=O)=O)=O | C37H50N10O5S2
